US05981533
In 8 ml of toluene, 229 mg (1.00 mmol) of 5-amino-3-(3-nitro-phenyl)-1H-pyrazole-4-carbonitrile and 317 μl of N,N-dimethylformamide dibenzylacetal are boiled overnight. Cooling, filtering the suspension and washing with hexane yield N'-[3-(3-nitrophenyl)-4-cyano-1H-pyrazol-5-yl]-N,N-dimethylformamidine; m.p. 221-225° C.; TRet (Grad22-100)=8.7.

reactant | 5-amino-3-(3-nitro-phenyl)-1H-pyrazole-4-carbonitrile | 1.00 mmol, 229 mg | NC1=C(C(=NN1)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C10H7N5O2
reactant | N,N-dimethylformamide dibenzylacetal | 317 μl | C(C1=CC=CC=C1)OC(N(C)C)OCC1=CC=CC=C1 | C17H21NO2
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | N'-[3-(3-nitrophenyl)-4-cyano-1H-pyrazol-5-yl]-N,N-dimethylformamidine | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(=C1C#N)N=CN(C)C | C13H12N6O2
